US07476399B2
(R)-methyl 2-(3-fluoro-4-methoxybenzamido)-4-methylpentanoate
Prepared in a similar manner to example 4 using 3-fluoro-4-methoxybenzoic acid and D-leucine methyl ester. MS (M+H, 298).

reactant | 3-fluoro-4-methoxybenzoic acid | FC=1C=C(C(=O)O)C=CC1OC | C8H7FO3
reactant | D-leucine methyl ester | COC([C@H](N)CC(C)C)=O | C7H15NO2
product | (R)-methyl 2-(3-fluoro-4-methoxybenzamido)-4-methylpentanoate | FC=1C=C(C(=O)N[C@@H](C(=O)OC)CC(C)C)C=CC1OC | C15H20FNO4
